US08703768B2
Step 2: 4-Amino-N-(2-hydroxy-2-methylpropyl)-1-methyl-1H-pyrazole-3-carboxamide
To a solution of N-(2-hydroxy-2-methylpropyl)-1-methyl-4-nitro-1H-pyrazole-3-carboxamide (391 mg, 1.61 mmol) in ethanol was added under an argon atmosphere Pd/C 10% (40 mg, 0.04 mmol) at ambient temperature. The mixture was stirred at that temperature under a hydrogen atmosphere for 16 hours. The catalyst was filtered off and washed with ethanol. The filtrate was concentrated in vacuo to give the title compound as waxy solid (340 mg, 99% yield) which was used without any further purification.

reactant | N-(2-hydroxy-2-methylpropyl)-1-methyl-4-nitro-1H-pyrazole-3-carboxamide | 1.61 mmol, 391 mg | OC(CNC(=O)C1=NN(C=C1[N+](=O)[O-])C)(C)C | C9H14N4O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.04 mmol, 40 mg | [Pd] | Pd
product | 4-Amino-N-(2-hydroxy-2-methylpropyl)-1-methyl-1H-pyrazole-3-carboxamide | 340 mg, 99% yield | NC=1C(=NN(C1)C)C(=O)NCC(C)(C)O | C9H16N4O2
